US09079866B2
5-(4′-Bromo-2′,3-difluorobiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared in a manner similar to that described for Intermediate D with DME as a solvent, heating at 100° Celsius for 16 hours and using 2-amino-5-bromopyrazine and 4-bromo-2-fluorobenzeneboronic acid. MS (ESI): mass calcd. for C16H10BrF2N3, 361.00; m/z found, 362.0, 364.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.47 (s, 1H), 8.30 (d, J=1.4, 1H), 8.12-8.02 (m, 1H), 7.49-7.32 (m, 5H), 6.37-5.94 (m, 1H), 6.15 (s, 2H).

reactant | 2-amino-5-bromopyrazine | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | 4-bromo-2-fluorobenzeneboronic acid | BrC1=CC(=C(C=C1)B(O)O)F | C6H5BBrFO2
solvent | DME | COCCOC | C4H10O2
product | 5-(4′-Bromo-2′,3-difluorobiphenyl-4-yl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)F | C16H10BrF2N3
